US09145415B2
To a solution of (1R*,3S*)-3-((tert-butoxycarbonyl)amino)cyclohexanecarboxylic acid (M1, 3.00 g) as racemate synthesized according to the method described in Chemistry A European Journal, 2005, 11, pp. 6543-6551 in methylene chloride (30 mL), carbonyldiimidazole (2.60 g) was added under ice cooling, and the mixture was stirred at the same temperature for 10 minutes. To the reaction mixture, N,N-diisopropylethylamine (2.72 mL) and methoxyamine hydrochloride (1.56 g) were added under ice cooling, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture, 1.0 mol/L aqueous hydrochloric acid and methylene chloride were added. The organic layer was separated, and the aqueous layer was extracted with methylene chloride. The organic layer and the extract were combined, washed successively with water, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain oily tert-butyl ((1S*,3R*)-3-(methoxy(methyl)carbamoyl)cyclohexyl)carbamate (M2, 3.60 g).

reactant | (1R*,3S*)-3-((tert-butoxycarbonyl)amino)cyclohexanecarboxylic acid | 3.00 g | C(C)(C)(C)OC(=O)N[C@@H]1C[C@@H](CCC1)C(=O)O | C12H21NO4
reactant | carbonyldiimidazole | 2.60 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-diisopropylethylamine | 2.72 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methoxyamine hydrochloride | 1.56 g | Cl.CON
reactant | hydrochloric acid | 1.0 mol/L | Cl | ClH
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl ((1S*,3R*)-3-(methoxy(methyl)carbamoyl)cyclohexyl)carbamate | 3.60 g | CON(C(=O)[C@H]1C[C@H](CCC1)NC(OC(C)(C)C)=O)C | C14H26N2O4
